US06162803
4-(5-Fluoro-1H-3-indolyl)-cyclohexanone ethylene ketal
A mixture of 4-(5-fluoro-1H-3-indolyl)-cyclohex-3-en-one ethylene ketal (2.7 g, 0.01 mol) and 10% palladium on carbon (1.2 g) in ethanol (200 ml) was hydrogenated for 4 days. The catalyst was filtered off and the filtrate was concentrated. The product was dried under vacuum to afford 2.8 g (100%) of product as a white solid: mp 183-185° C.

reactant | 4-(5-fluoro-1H-3-indolyl)-cyclohex-3-en-one ethylene ketal | 0.01 mol, 2.7 g | C1COC2(CC=C(CC2)C2=CNC3=CC=C(C=C23)F)O1 | C16H16FNO2
catalyst | palladium on carbon | 1.2 g | [Pd] | Pd
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 4-(5-Fluoro-1H-3-indolyl)-cyclohexanone ethylene ketal | 2.8 g, 100% | C1COC2(CCC(CC2)C2=CNC3=CC=C(C=C23)F)O1 | C16H18FNO2
